US06211215B1
In substantially the same manner as in Working Example 109, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 2-benzyloxy-5-chloromethylpyridine to give 2-benzyloxy-5-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]pyridine. The yield was 65%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 84-85° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 2-benzyloxy-5-chloromethylpyridine | C(C1=CC=CC=C1)OC1=NC=C(C=C1)CCl | C13H12ClNO
product | 2-benzyloxy-5-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]pyridine | yield was 65% | C(C1=CC=CC=C1)OC1=NC=C(C=C1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C25H25N3O2
